US05171860
Step B 3-[2-[(5-Dimethylaminomethyl-2-furanyl)methylthio]ethyl]amino-4-amino-5-dimethylcarbamylisothiazole-1,1-dioxide
Into a solution of 3-[2-[(5-dimethylaminomethyl-2-furanyl)methylthio]ethyl]amino-4-ethoxy-5-dimethylcarbamylisothiazole-1,1-dioxide (1.4 g, 3.2 mmol) in acetonitrile (12 ml) warmed at 65° C., ammonia gas was slowly bubbled over a 1-2 hour period. Solvent was evaporated, residue chromatographed on silica gel eluting with 3-5% methanol/chloroform to give 0.96 g of title compound which could be crystallized from nitromethane/ether, mp 101°-104°.

reactant | 3-[2-[(5-dimethylaminomethyl-2-furanyl)methylthio]ethyl]amino-4-ethoxy-5-dimethylcarbamylisothiazole-1,1-dioxide | 3.2 mmol, 1.4 g | CN(C)CC1=CC=C(O1)CSCCNC1=NS(C(=C1OCC)C(N(C)C)=O)(=O)=O | C18H28N4O5S2
reactant | acetonitrile | 12 ml | C(C)#N | C2H3N
product | 3-[2-[(5-Dimethylaminomethyl-2-furanyl)methylthio]ethyl]amino-4-amino-5-dimethylcarbamylisothiazole-1,1-dioxide | 0.96 g | CN(C)CC1=CC=C(O1)CSCCNC1=NS(C(=C1N)C(N(C)C)=O)(=O)=O | C16H25N5O4S2
